US04971975
3-(4-Toluenesulphonyl)propanal ethylene acetal (D24)
A mixture of sodium 4-toluenesulphinate monohydrate (37.2 g, 0 19 mole) and 2-(2-bromoethyl)-1,3-dioxolane (20 ml, 0.17 mole) in dry DMF (100 ml) was stirred at room temperature for 64 h, resulting in a homogenous solution. This was poured into ice/water (1 liter) containing conc. ammonia solution (100 ml) and stirred vigorously until a white precipitate formed. The solid was filtered off, washed with water, dried and recrystallised from propan-2-ol/ether to give the title compound (D24) as a white solid (28.7 g, 66%) m.p. 78-80° C.. 1H-NMR (CDCl3) δ:

reactant | sodium 4-toluenesulphinate monohydrate | 19 mole, 37.2 g | O.C1(=CC=C(C=C1)S(=O)[O-])C.[Na+]
reactant | 2-(2-bromoethyl)-1,3-dioxolane | 0.17 mole, 20 ml | BrCCC1OCCO1 | C5H9BrO2
reactant | ammonia | 100 ml | N | H3N
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 3-(4-Toluenesulphonyl)propanal ethylene acetal | 28.7 g, 66% | C1COC(CCS(=O)(=O)C2=CC=C(C=C2)C)O1 | C12H16O4S
